US04459407
In 30 ml of ethyl acetate was dissolved 1 g of 1-benzyl-4-{4-[N-pivaloyloxymethyl-N-(2-pyrimidinyl)-amino]benzyl}-2,3-dioxopiperazine, and 1 g of glycolic acid and 0.02 ml of N hydrogen chloride-ethanol solution were added, after which the resulting mixture was subjected to reaction at room temperature for 3 hours with stirring. After the completion of the reaction, the solvent was removed by distillation under reduced pressure, and the residue thus obtained was extracted with 100 ml of methylene chloride. The methylene chloride layer was washed with 30 ml of water and then 30 ml of saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate, after which the solvent was removed by distillation under reduced pressure. The residue thus obtained was purified by a column chromatography (Wakogel C-200, eluted with chloroformethanol), and recrystallized from ethyl acetate-diisopropyl ether, to obtain 0.5 g (52.8% yield) of 1-benzyl-4-{4-[N-carboxymethoxymethyl-N-(2-pyrimidinyl)amino]benzyl}-2,3-dioxopiperazine having a melting point of 85° to 90° C.

reactant | 1-benzyl-4-{4-[N-pivaloyloxymethyl-N-(2-pyrimidinyl)-amino]benzyl}-2,3-dioxopiperazine | 1 g | C(C1=CC=CC=C1)N1C(C(N(CC1)CC1=CC=C(C=C1)N(C1=NC=CC=N1)COC(C(C)(C)C)=O)=O)=O | C28H31N5O4
reactant | glycolic acid | 1 g | C(CO)(=O)O | C2H4O3
reactant | hydrogen chloride ethanol | Cl.C(C)O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 1-benzyl-4-{4-[N-carboxymethoxymethyl-N-(2-pyrimidinyl)amino]benzyl}-2,3-dioxopiperazine | 0.5 g, 52.8% yield | C(C1=CC=CC=C1)N1C(C(N(CC1)CC1=CC=C(C=C1)N(C1=NC=CC=N1)COCC(=O)O)=O)=O | C25H25N5O5
